US07276612B2
3-Bromomethylbenzofuran-2-carboxylic acid methyl ester (269 mg, 1 mmol) was dissolved in anhydrous DMF and added 2M dimethylamine/THF solution (1.5 ml, 3 mmol). After 1-2 h, the reaction was diluted with EtOAc and washed twice with saturated NaHCO3 (aq.) and brine. The organic extract over was dried over Na2SO4 and then concentrated in vacuo. The crude was purified on a silica gel column (5% MeOH in dichloromethane) to give 3-dimethylaminomethylbenzofuran-2-carboxylic acid methyl ester (131 mg).

reactant | 3-Bromomethylbenzofuran-2-carboxylic acid methyl ester | 1 mmol, 269 mg | COC(=O)C=1OC2=C(C1CBr)C=CC=C2 | C11H9BrO3
reactant | dimethylamine THF | 3 mmol, 2M, 1.5 ml | CNC.C1CCOC1
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-dimethylaminomethylbenzofuran-2-carboxylic acid methyl ester | 131 mg | COC(=O)C=1OC2=C(C1CN(C)C)C=CC=C2 | C13H15NO3
